US04666504
4-Carboxy-1-(2,4-dichlorophenyl)-5-pyrazolecarboxamide.
A 2.5 g. portion of ethyl 1-(2,4-dichlorophenyl)-5-cyano-4-pyrazolecarboxylate was reacted with 1 g. of potassium hydroxide in 60 ml. of 50% aqueous ethanol to obtain 1.2 g. of purified product, m.p. 239°-240° , with the following elemental analysis.

reactant | ethyl 1-(2,4-dichlorophenyl)-5-cyano-4-pyrazolecarboxylate | ClC1=C(C=CC(=C1)Cl)N1N=CC(=C1C#N)C(=O)OCC | C13H9Cl2N3O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 4-Carboxy-1-(2,4-dichlorophenyl)-5-pyrazolecarboxamide | C(=O)(O)C=1C=NN(C1C(=O)N)C1=C(C=C(C=C1)Cl)Cl | C11H7Cl2N3O3
